US07964560B2
To a clear solution of (2S,4R)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate (2.59 g, 6.00 mmol) and trimethylsilylmethanethiol (1.019 mL, 7.20 mmol) in Acetonitrile (30 mL) was added Scandium(III) trifluoromethanesulfonate (0.295 g, 0.600 mmol) as solid by one portion at room temperature. The formed pink solution was stirred at this temperature for 26 h. TLC analysis showed starting material was completely consumed. Quenched with sat. ammonium chloride, extracted with EtOAc. Washed the organic with brine, dried over MgSO4, filtered, evaporated in vacuo. The residue was purified by BIOTAGE® column, eluted with gradient 5˜40% EtOAc-hexane to afford the mixture of diastereomers 3.10 g (97%). This oily mixture was purified by BIOTAGE® again, eluted with gradient 0˜20% EtOAc-toluene to yield the by-product (2S,4S)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-((trimethylsilyl)methylthio)pyrrolidine-1,2-dicarboxylate (1.40 g, 2.62 mmol, 43.7% yield) as a wax and the desired product (2S,4R)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-((trimethylsilyl)methylthio)pyrrolidine-1,2-dicarboxylate (1.25 g, 2.108 mmol, 35.1% yield) as a white foam. 1H NMR (500 MHz, CHLOROFORM-d) ppm −0.03 (s, 9H), 1.33 (dd, J=28.08, 11.29 Hz, 1H), 1.49 (dd, J=17.70, 11.29 Hz, 1H), 2.62-2.85 (m, 2H), 3.62, 3.77 (s, 3H), 3.97 (t, J=11.60 Hz, 1H), 4.16 (dd, J=74.62, 11.44 Hz, 1H), 4.35-4.56 (m, 1H), 4.99-5.19 (m, 1H), 5.17-5.27 (m, 1H), 7.27-7.40 (m, 8H), 7.39-7.49 (m, 2H), 7.49-7.67 (m, 4H). LC-MS (retention time: 3.62 mm, method B), MS m/z 534 (M+H).

reactant | (2S,4R)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate | 6.00 mmol, 2.59 g | C1(=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC)O)C1=CC=CC=C1 | C26H25NO5
reactant | trimethylsilylmethanethiol | 7.20 mmol, 1.019 mL | C[Si](C)(C)CS | C4H12SSi
solvent | Acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | Scandium(III) trifluoromethanesulfonate | 0.600 mmol, 0.295 g | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | (2S,4S)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-((trimethylsilyl)methylthio)pyrrolidine-1,2-dicarboxylate | 2.62 mmol, 1.40 g, 43.7% yield | C1(=CC=C(C=C1)[C@]1(C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC)SC[Si](C)(C)C)C1=CC=CC=C1 | C30H35NO4SSi
